US06956042B2
tert-Butyl 6-benzyl-2,6-diazaspiro[4.4]nonane-2-carboxylate
Di-t-butyl dicarbonate (1.45 g, 6.64 mmol) was added to a solution of 1-benzyl-1,7-diazaspiro[4.4]nonane (1.30 g, 6.01 mmol) and triethylamine (1 mL) in dichloromethane (25 mL), and the mixture was stirred at ambient temperature overnight. The mixture was poured into saturated aqueous sodium bicarbonate (10 mL) and extracted with chloroform (4×25 mL). The extracts were dried (K2CO3) and concentrated by rotary evaporation. The residue was column chromatographed on Merck silica gel 60 (70-230 mesh), eluting with, to give 1.85 g (97.4%) of viscous, colorless oil, after concentration of selected fractions.

reactant | Di-t-butyl dicarbonate | 6.64 mmol, 1.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-benzyl-1,7-diazaspiro[4.4]nonane | 6.01 mmol, 1.30 g | C(C1=CC=CC=C1)N1CCCC12CNCC2 | C14H20N2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-Butyl 6-benzyl-2,6-diazaspiro[4.4]nonane-2-carboxylate | C(C1=CC=CC=C1)N1C2(CCN(C2)C(=O)OC(C)(C)C)CCC1 | C19H28N2O2
